US09403773B2
4-(5-Fluoro-4-oxo-8-propoxy-1,4-dihydroquinolin-3-yl)benzoic acid (260 mg, 0.76 mmol), morpholine (99.5 mg, 1.14 mmol), WSC (189 mg, 0.99 mmol) and HOBT (151 mg, 0.99 mmol) were added to DMF (10 ml), and the mixture was stirred at room temperature for 15 hours. The reaction mixture was concentrated under reduced pressure, and the residue was then purified by silica gel column chromatography (dichloromethane:methanol=30:1). The purified product was concentrated under reduced pressure, and the residue was recrystallized from ethyl acetate to thereby obtain 80 mg of powdery white 5-fluoro-3-[4-(morpholine-4-carbonyl)phenyl]-8-propoxy-1H-quinolin-4-one (yield: 26%).

reactant | 4-(5-Fluoro-4-oxo-8-propoxy-1,4-dihydroquinolin-3-yl)benzoic acid | 0.76 mmol, 260 mg | FC1=C2C(C(=CNC2=C(C=C1)OCCC)C1=CC=C(C(=O)O)C=C1)=O | C19H16FNO4
reactant | morpholine | 1.14 mmol, 99.5 mg | N1CCOCC1 | C4H9NO
reactant | WSC | 0.99 mmol, 189 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.99 mmol, 151 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-fluoro-3-[4-(morpholine-4-carbonyl)phenyl]-8-propoxy-1H-quinolin-4-one | 80 mg, yield: 26% | FC1=C2C(C(=CNC2=C(C=C1)OCCC)C1=CC=C(C=C1)C(=O)N1CCOCC1)=O | C23H23FN2O4
